Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C:2](=[C:3]([H:12])[H:13])[H:11])([H:8])([H:9])[H:10].[O:4]([C:5](=[O:7])[H:14])[C:6]([H:15])([H:16])[H:17]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[O:4][C@:5]([C:6]([H:15])([H:16])[H:17])([H:14])[O:7]1)([H:8])([H:9])[H:10],74.21286039477071
[C:1]([O:2][H:17])([H:8])([H:9])[H:10].[C:3]1([H:11])([H:12])[C@:4]([C:5]([H:14])([H:15])[H:16])([H:13])[C:6]1=[O:7]>>[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],60.11476915347751
[C:2](=[C:3]=[C:4]=[C:5]([O:6][H:12])[H:10])([H:8])[H:9].[O:1]([H:7])[H:11]>>[O:1]([C:2]([C:3]#[C:4][C:5]([O:6][H:12])([H:10])[H:11])([H:8])[H:9])[H:7],54.3740992246415
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]12[C:5]([H:15])([H:16])[C@:6]2([C:7][H:17])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6]#[C:7][H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10],26.326272863402885
[C:1]([C@@:2]([O:3][H:12])([C:4](=[O:5])[C:6](=[C:7])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C:4](=[O:5])[C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10],1.4655312866558958
[C:1]([C:2]12[C:3]([H:12])([H:13])[C:4]1([O:6][C:5]([H:11])([H:14])[H:15])[C:7]2([H:16])[H:17])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]2([C:5]([H:14])([H:15])[O:6]2)[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10],70.5710007600274
[C:4]([O:5][H:10])([H:7])([H:8])[H:9].[N:1](=[C:2]=[O:3])[H:6]>>[N:1]([C:2](=[O:3])[C:4]([O:5][H:10])([H:8])[H:9])([H:6])[H:7],68.2544256997581
[O:1]([C:2](=[C:3]([H:7])[H:8])[H:6])[N+:5]#[C-:4]>>[o:1]1[c:2]([H:6])[c:3]([H:7])[c:4]([H:8])[n:5]1,30.801128105122906
[C:1]([C:2]#[C:3][C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2][C@:3]1([H:16])[C@@:4]([C:5]([H:11])([H:12])[H:13])([H:10])[C:6]1([H:14])[H:15])([H:7])([H:8])[H:9],85.81904429247341
[C:1](=[C:2]([H:11])[H:12])([H:8])[H:10].[C:3](=[C:4]([H:15])[H:16])([N:5]([C+:6]([O-:7])[H:18])[H:17])[H:13].[H:9][H:14]>>[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],31.758354320087385
[O:1]([C:2]([C:3]#[C:4][C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8]>>[C:6](=[O:7])([H:8])[H:13].[O:1]1[C:2]([H:9])([H:10])[C:3]1=[C:4]=[C:5]([H:11])[H:12],77.5643043839775
[C:1]([C@@:6]1([H:14])[C:2]2=[C:7]([H:15])[C@@:4]3([H:12])[C@:3]2([H:11])[C@:5]31[H:13])([H:8])([H:9])[H:10]>>[C:1]([C@:2]12[C@@:3]3([H:11])[C@:4]4([H:12])[C@@:5]3([H:13])[C@@:6]1([H:14])[C@:7]24[H:15])([H:8])([H:9])[H:10],53.6490537970054
[C:1]([N:2]([C@@:3]([C:4]([O:5][H:15])([H:13])[H:14])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[H:11].[N:2](=[C:3](/[C:6]#[N:7])[H:12])\[C:4]([O:5][H:15])([H:13])[H:14],87.52955437013719
[C:1]([H:6])([H:7])([H:8])[H:11].[C:2](=[C:3]([C:4]([O:5][H:15])([H:13])[H:14])[H:12])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8],76.68148257719659
[O:1]=[C:2]([C:3]#[C:4][H:7])[C:5]#[C:6][H:8]>>[O:1]=[c:2]1[c:5]([C:4](=[C:3])[H:7])[c:6]1[H:8],76.37019718730309
[C:1]([N:2]=[C:3]=[N:4][H:10])([H:7])([H:8])[H:9].[C:5](#[N:6])[H:11]>>[C:1](/[N:2]=[C:3](\[N:4]([H:10])[H:11])[C:5]#[N:6])([H:7])([H:8])[H:9],39.009640991126005
[O:1]=[C:2]1[N:3]([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[C:6]([H:13])([H:14])[N:7]1[H:15]>>[O:1]=[C:2]([N:3]([H:8])[H:11])[N:7]([C:6]([C:5](=[C:4]([H:9])[H:10])[H:12])([H:13])[H:14])[H:15],74.5828153995924
[C:1](/[N:2]=[C:3](/[O:4][C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]1[C:3]([H:11])[O:4][C:5]([H:12])([H:13])[C:6]1([H:14])[H:15])([H:8])([H:9])[H:10].[O:7][H:16],86.0633498355802
[C:1]([C@@:2]([O:3][H:10])([C:5](=[C:4])[H:11])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C@@:2]([O:3][H:10])([C:4]#[C:5][H:11])[H:9])([H:6])([H:7])[H:8],11.734142991020498
[C:1]([N:2]([C:3](=[O:4])/[N:5]=[C:6](/[N:7]([H:12])[H:14])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3](=[O:4])[N:5](/[C:6](=[N:7]/[H:14])[H:13])[H:12])[H:11])([H:8])([H:9])[H:10],39.38940551714916
[H:8][H:11].[N:1]#[C:2][O:3][C:4]([C:5]1=[C:6]([H:12])[N:7]1[H:13])([H:9])[H:10]>>[N:1](=[C:2]1\[O:3][C:4]([H:9])([H:10])[C@@:5]12[C:6]([H:11])([H:12])[N:7]2[H:13])\[H:8],21.490892930327306
[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([O:4][H:12])[H:8])([H:5])([H:6])[H:7]>>[C:1]([C:2][O:4][H:12])([H:5])([H:6])[H:7].[C:3]([H:8])([H:9])([H:10])[H:11],71.156442532298
[C:1]([N:2](/[C:3](=[N:4]/[H:11])[C:5]#[N:6])[H:10])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:10].[N:2](=[C:3]=[N:4][H:11])[C:5]#[N:6],82.14390619057609
[C:1]([C@@:2]1([H:11])[O:3][C:4]1=[O:5])([H:8])([H:9])[H:10].[C:6](#[C:7][H:13])[H:12]>>[C:1]([C@@:2]1([H:11])[O:3][C:4](=[O:5])[C:6]([H:12])=[C:7]1[H:13])([H:8])([H:9])[H:10],54.8487589739798
